US06683067B2
Meclocycline Tablets
A rapidly disintegrating tablet containing meclocycline sulfosalicylate is added to water. The tablet disintegrates and a second tablet containing a buffer is added to the solution to raise the pH so that the tetracycline rapidly dissolves.

reactant | meclocycline sulfosalicylate | CN(C)[C@H]1[C@@H]2[C@H]([C@@H]3C(=C)C=4C(=CC=C(C4C(=O)C3=C([C@@]2(C(=O)C(=C1O)C(=O)N)O)O)O)Cl)O.C1=CC(=C(C=C1S(=O)(=O)O)C(=O)O)O
reactant | tetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O8
solvent | water | O | H2O
product | Meclocycline | CN(C)[C@H]1[C@@H]2[C@H]([C@@H]3C(=C)C=4C(=CC=C(C4C(=O)C3=C([C@@]2(C(=O)C(=C1O)C(=O)N)O)O)O)Cl)O | C22H21ClN2O8
